US03987053
EXAMPLE 55: 1-Methyl-2-nitro-5-styrylimidazole
A mixture of 7.2 g. of 1,5-dimethyl-2-nitroimidazole, 41.2 ml. of benzaldehyde and 7.9 g. of potassium dazole, tert-butoxide in 300 ml. of ethanol is refluxed for 35 minutes under nitrogen. The residue, which is obtained by evaporation of the reaction mixture under vacuum, is extracted with ethyl ether and filtered. The ethyl ether solution after concentration yields an oily residue which is chromatographed through 300 g. of silica gel by eluting with chloroform. After evaporation of the solvent under vacuum at 40° C., an oily residue is obtained which crystallizes on standing. After washing with a small amount of methyl ethyl ketone, 1.9 g. (16%) of a product which melts at 170°-180° C. is obtained.

reactant | 1,5-dimethyl-2-nitroimidazole | CN1C(=NC=C1C)[N+](=O)[O-] | C5H7N3O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium | [K] | K
reactant | tert-butoxide | CC(C)([O-])C
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-nitro-5-styrylimidazole | 16% | CN1C(=NC=C1C=CC1=CC=CC=C1)[N+](=O)[O-] | C12H11N3O2
